US07465795B2
4-amino-8-[2-fluoro-5-(trifluoromethyl)phenyl]-N-propyl-cinnoline-3-carboxamide
Using method A, 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide (150 mg, 0.485 mmol) and 2-fluoro-5-(trifluoromethyl)phenylboronic acid (208 mg, 1.000 mmol) were reacted to afford the title compound (148 mg, 78% yield) as a white solid.

reactant | 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide | 0.485 mmol, 150 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NCCC | C12H13BrN4O
reactant | 2-fluoro-5-(trifluoromethyl)phenylboronic acid | 1.000 mmol, 208 mg | FC1=C(C=C(C=C1)C(F)(F)F)B(O)O | C7H5BF4O2
product | 4-amino-8-[2-fluoro-5-(trifluoromethyl)phenyl]-N-propyl-cinnoline-3-carboxamide | 148 mg, 78% yield | NC1=C(N=NC2=C(C=CC=C12)C1=C(C=CC(=C1)C(F)(F)F)F)C(=O)NCCC | C19H16F4N4O
